US03952046
0.384 G. of 4'-cyano-4-hydroxy-biphenyl are dissolved in 3.2 ml. of absolute pyridine and reacted with 0.527 g. of chloroformic acid n-decyl ester as in Example 1. The 0.822 g. of brownish crystals obtained according to the procedure described in Example 1 are dissolved in benzene and chromatographed on 40 g. of silica gel. Benzene elutes 0.714 g. of colorless crystals which are recrystallized from ether-hexane up to constant melting point and clearing point. The pure 4'-cyano-4-biphenylyl n-decyl carbonate obtained melts at 59.3°-60.0° and has a clearing point of 74.0°. The compound is smectic in the entire liquid crystalline range. UV (EtOH): ε270 = 26,400.

reactant | 4'-cyano-4-hydroxy-biphenyl | C(#N)C1=CC=C(C=C1)C1=CC=C(C=C1)O | C13H9NO
reactant | pyridine | N1=CC=CC=C1 | C5H5N
reactant | chloroformic acid n-decyl ester | C(CCCCCCCCC)OC(=O)Cl | C11H21ClO2
solvent | benzene | C1=CC=CC=C1 | C6H6
product | 4'-cyano-4-biphenylyl n-decyl carbonate | C(OC1=CC=C(C=C1)C1=CC=C(C=C1)C#N)(OCCCCCCCCCC)=O | C24H29NO3
